US07105707B2
The procedure was identical to Example 1, with the exception that 3,3-dimethyl-1-butyne (0.488 ml; 0.329 g; 4.00 mmol) was used as a substrate instead of phenylacetylene and 3-methoxybenzonitrile (0.245 ml; 0.266 g; 2.00 mmol) was used as a substrate instead of benzonitrile. GC analysis of the organic phase of the hydrolyzed reaction sample after 16 h at 65° C. showed the presence of 1.85 mmol (92% yield) of 1-methoxy-3-(3,3-dimethyl-1-butynyl)benzene and no remaining 3-methoxybenzonitrile in the reaction mixture.

reactant | 3,3-dimethyl-1-butyne | 4.00 mmol, 0.488 ml, 0.329 g | CC(C#C)(C)C | C6H10
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | 3-methoxybenzonitrile | 2.00 mmol, 0.245 ml, 0.266 g | COC=1C=C(C#N)C=CC1 | C8H7NO
solvent | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
product | 1-methoxy-3-(3,3-dimethyl-1-butynyl)benzene | 1.85 mmol, 92% yield | COC1=CC(=CC=C1)C#CC(C)(C)C | C13H16O
